US07279264B2
A 12 L round bottom flask equipped with a mechanical stirrer, reflux condenser and nitrogen inlet was charged with of sodium hydroxide (440 g, 11 moles) and 4.5 L of distilled water. Sodium borohydride (440 g, 11.6 moles) was added and the batch was held at 50° C. until all the solids dissolved. To the mixture there was added 2,4-dihydroxypropiophenone (440 g, 2.6 moles) resulting in a 10-15° C. exotherm and some hydrogen evolution. The batch was held at 80° C. for 90 minutes then cooled to 10-20° C. in an ice bath. Hydrogen evolution was observed during the 90 minute hold at 80° C. 1.9 kg of hydrochloric acid (37%) was added drop-wise (hydrogen evolution) bringing the batch to pH 6. The product was extracted into methylene chloride (5×500 mL). The methylene chloride was stripped off and replaced with toluene (2 L). The product was crystallized from toluene to give propyl resorcinol (261.5 g, 1.7 mol, 65% yield).

reactant | sodium hydroxide | 11 moles, 440 g | [OH-].[Na+]
reactant | Sodium borohydride | 11.6 moles, 440 g | [BH4-].[Na+]
reactant | 2,4-dihydroxypropiophenone | 2.6 moles, 440 g | CCC(=O)C1=C(C=C(C=C1)O)O | C9H10O3
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 1.9 kg | Cl | ClH
solvent | water | 4.5 L | O | H2O
product | propyl resorcinol | 1.7 mol, 261.5 g, 65% yield | C(CC)C1=C(O)C=CC=C1O | C9H12O2
